US07897762B2
To a solution of diphosgene (2.1 mL, 6.8 mmol) in anhydrous dioxane (30 mL) was added a solution of 5-((2-chloro-4-fluoro-5-nitrophenylamino)methyl)-N-methyl-2-(methylthio)pyrimidin-4-amine (2.2 g, 6.2 mmol) and Et3N (1.32 g, 13 mmol) in anhydrous dioxane (30 mL) at 0° C. After complete addition, the resulting mixture was stirred at 50° C. overnight. Water was added and the mixture was basified with saturated Na2CO3 solution. The mixture was concentrated in vacuo and the residue was extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine, dried (Na2SO4) and concentrated in vacuo. The residual solid was washed with ether and dried to afford 3-(2-chloro-4-fluoro-5-nitrophenyl)-1-methyl-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (1.4 g, 59%). 1H NMR (400 MHz, DMSO-d6): δ 8.53 (d, J=8 Hz, 1 H), 8.26 (s, 1 H), 8.08 (d, J=12 Hz, 1 H), 4.82 (d, J=16 Hz, 1 H), 4.57 (d, J=16 Hz, 1 H), 3.29 (s, 3 H), 2.50 (s, 3 H); MS (ESI) m/z: 384.1[M+H]+.

reactant | diphosgene | 6.8 mmol, 2.1 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 5-((2-chloro-4-fluoro-5-nitrophenylamino)methyl)-N-methyl-2-(methylthio)pyrimidin-4-amine | 6.2 mmol, 2.2 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])NCC=1C(=NC(=NC1)SC)NC | C13H13ClFN5O2S
reactant | Et3N | 13 mmol, 1.32 g | CCN(CC)CC | C6H15N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | Water | O | H2O
product | 3-(2-chloro-4-fluoro-5-nitrophenyl)-1-methyl-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 1.4 g, 59% | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C(N(C2=NC(=NC=C2C1)SC)C)=O | C14H11ClFN5O3S
